US07202363B2
N-[4-(4-amino-7-{[3-(4-hydroxypiperidin-1-yl)propanoyl]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using 1-methyl-1H-indole-2-carbonyl chloride, N-[4-Amino-3-(4-amino-3-methoxyphenyl)-thieno[3,2-c]pyridin-7-yl]-3-(4-hydroxy-piperidin-1-yl)propionamide, and the procedure described in General Procedure F. m/z (M+H)+ 599.4.

reactant | 1-methyl-1H-indole-2-carbonyl chloride | CN1C(=CC2=CC=CC=C12)C(=O)Cl | C10H8ClNO
reactant | N-[4-Amino-3-(4-amino-3-methoxyphenyl)-thieno[3,2-c]pyridin-7-yl]-3-(4-hydroxy-piperidin-1-yl)propionamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)N)OC)NC(CCN2CCC(CC2)O)=O | C22H27N5O3S
product | N-[4-(4-amino-7-{[3-(4-hydroxypiperidin-1-yl)propanoyl]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)NC(CCN2CCC(CC2)O)=O | C32H34N6O4S
